US05314998
Preparation of 2,4-Dihydro-2-ethyl-5-methyl-3H-pyrazol-3-one
A mixture of 49 g 3-methyl-3-pyrazolin-5-one and 60.0 g bromoethane was sealed in a glass pressure tube and heated in an oil bath at 130° C. for 40 hours. After cooling, the tube was opened and the contents were poured into 200 g ice-water. Sodium bicarbonate (42.00 g) was added in small portions with stirring. The resulting mixture was stirred and heated to 100° C. for 1 hour, cooled to room temperature, and extracted with 10×50 ml portions of chloroform. The combined extracts were dried over anhydrous calcium chloride, evaporated under reduced pressure and the residue recrystallized from ethanol to give 20.1 g as colorless prisms, m.p. 112°-113° C.

reactant | 3-methyl-3-pyrazolin-5-one | 49 g | CC=1NNC(C1)=O | C4H6N2O
reactant | bromoethane | 60.0 g | BrCC | C2H5Br
reactant | Sodium bicarbonate | 42.00 g | C([O-])(O)=O.[Na+]
product | 2,4-Dihydro-2-ethyl-5-methyl-3H-pyrazol-3-one | C(C)N1N=C(CC1=O)C | C6H10N2O
